US05945557
Methyl 2-[2-((3-(2-(thien-2-yl)cyclopropyl))phenoxymethyl)phenyl]-2-methoxyiminoacetate (Compound 2.45, Table 2)
To a 20 ml glass vial equipped with a magnetic stirring bar was charged 2.2 g (0.0102 moles) of 1-(3-hydroxyphenyl)-2-(2-thienyl)cyclopropane, 15 mls of dry N,N-dimethylformamide, and 0.41 g (0.0102 moles) of powdered sodium hydroxide. To this solution was added 2.9 g (0.0102 moles) of methyl (E)-2-(bromomethyl)phenylglyoxylate O-methyloxime in one portion. The vial was capped and stirred overnight at ambient temperature. The reaction mixture was then poured into 100 mls of water, and extracted with s×100 mls of ethyl ether. The ether extract was then washed with 2×100 mls of water and 100 mls of saturated aqueous sodium chloride solution. The ether extract was then dried over anhydrous magnesium sulfate, filtered, and concentrated under reduced pressure with a rotary evaporator at 45° C. to afford 5.1 g of the crude product as an dark green oil. This material was chromatographed on a mixed bed of neutral alumina and silica gel with 50% ethyl acetate, 50% hexane. The pure fractions were combined, and concentrated under reduced pressure with a rotary evaporator to afford 3.7 g of the title compound, Methyl2-[2-((3-(2-(thien-2-yl)cyclopropyl))phenoxymethyl)phenyl]-2-methoxyiminoacetate as a viscous yellow oil. 86% isolated yield.

reactant | 1-(3-hydroxyphenyl)-2-(2-thienyl)cyclopropane | 0.0102 moles, 2.2 g | OC=1C=C(C=CC1)C1C(C1)C=1SC=CC1 | C13H12OS
reactant | N,N-dimethylformamide | 15 mls | CN(C=O)C | C3H7NO
reactant | sodium hydroxide | 0.0102 moles, 0.41 g | [OH-].[Na+]
reactant | methyl (E)-2-(bromomethyl)phenylglyoxylate O-methyloxime | 0.0102 moles, 2.9 g | CO\N=C(\C(=O)OC)/C1=C(C=CC=C1)CBr | C11H12BrNO3
solvent | water | 100 mls | O | H2O
product | Methyl 2-[2-((3-(2-(thien-2-yl)cyclopropyl))phenoxymethyl)phenyl]-2-methoxyiminoacetate | 3.7 g | S1C(=CC=C1)C1C(C1)C=1C=C(OCC2=C(C=CC=C2)C(C(=O)OC)=NOC)C=CC1 | C24H23NO4S
